US05110919
Methoxyacetic anhydride (I)
A mixture of methoxyacetic acid (360 g, 4 mol) and acetic anhydride (409 g, 4 mol) was heated with stirring in a 2 L 3-neck flask equipped with a bubble-plate distillation column and a fraction cutter. A mixture of acetic acid and acetic acid anhydride was distilled at atmospheric pressure until the internal temperature reached 164° C. The pressure was reduced and the product was collected at 65°-71° C. at 0.2 mmHg to give 229 g (71%) of pure title compound. A total of 34.8 kg of methoxyacetic acid was processed to give 26.1 kg (83%) of the anhydride (I).

reactant | methoxyacetic acid | 4 mol, 360 g | COCC(=O)O | C3H6O3
reactant | acetic anhydride | 4 mol, 409 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | Methoxyacetic anhydride | 229 g, 71% | COCC(=O)OC(COC)=O | C6H10O5
